US08492588B2
N-[4-(4-Fluoro-benzyloxy)-2,6-dimethyl-phenyl]-3,3-dimethyl-butyramide
To a solution of 4-(4-fluoro-benzyloxy)-2,6-dimethylaniline (0.20 g, 0.82 mmol) from above and triethylamine (125 mg, 1.24 mmol) in anhydrous methylene chloride (20 ml) was added dropwise tert-butylacetyl chloride (135 mg, 1 mmol) at 0° C. The reaction mixture was stirred at room temperature for 18 hours. Water was added to the reaction mixture, and the mixture was washed with saturated brine and dried over sodium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ISCO, hexane/EtOAc, 0-40%, 40 min) and recrystallized from hexane/EtOAc (5:1) to give 230 mg (82%) of the white solids. 1H NMR (DMSO-d6, 400 MHz): δ 8.92 (brs, 1H, exchangeable with D20, NH), 7.46 (dd, J=4.7 and 6.4 Hz, 2H), 7.19 (t, J=7.0 Hz, 2H), 6.70 (s, 2H), 5.02 (s, 2H), 2.16 (s, 2H), 2.08 (s, 6H), 1.03 (s, 9H). MS: 344 (M+1).

reactant | 4-(4-fluoro-benzyloxy)-2,6-dimethylaniline | 0.82 mmol, 0.20 g | FC1=CC=C(COC2=CC(=C(N)C(=C2)C)C)C=C1 | C15H16FNO
reactant | triethylamine | 1.24 mmol, 125 mg | C(C)N(CC)CC | C6H15N
reactant | tert-butylacetyl chloride | 1 mmol, 135 mg | C(C)(C)(C)CC(=O)Cl | C6H11ClO
reactant | Water | O | H2O
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | N-[4-(4-Fluoro-benzyloxy)-2,6-dimethyl-phenyl]-3,3-dimethyl-butyramide | 230 mg, 82% | FC1=CC=C(COC2=CC(=C(C(=C2)C)NC(CC(C)(C)C)=O)C)C=C1 | C21H26FNO2
